US04034040
Thionyl chloride (140 ml.) and 3,4-dihexoxybenzyl alcohol (14.0 g.) are combined and stirred at room temperature for one-half hour, at which time gas evolution ceases. The mixture is refluxed for one-half hour and then distilled to remove thionyl chloride (about 100 ml.). The residue is poured into ice-water (250 g. of each) and the aqueous solution extracted with chloroform (3× 100 ml.). The chloroform extracts are combined, washed successively with saturated sodium bicarbonate solution (2× 100 ml.) and water (3× 100 ml.). It is then dried (Na2SO4) and concentrated to give 3,4-dihexoxybenzyl chloride as a brown oil (11.7 g.).

reactant | 3,4-dihexoxybenzyl alcohol | 14.0 g | C(CCCCC)OC=1C=C(CO)C=CC1OCCCCCC | C19H32O3
reactant | Thionyl chloride | 140 ml | S(=O)(Cl)Cl | Cl2OS
product | 3,4-dihexoxybenzyl chloride | C(CCCCC)OC=1C=C(CCl)C=CC1OCCCCCC | C19H31ClO2
